US04684661
N-Methyl-N-(1-naphthylmethyl)-5-ethyl-5-hydroxy-3-heptyn-amine
To 2 g N-methyl-N-(1-naphthylmethyl)-3-butyn-amine in abs. tetrahydrofurane (THF) are added dropwise, at -70°, 5.6 ml of a 15% by weight solution of n-butyllithium in hexane and half an hour later, at -70°, 0.95 ml diethylketone. The mixture is stirred for 3 hours at room temperature, poured onto ice and extracted with ether. The organic phase is washed, dried and evaporated in vacuum. The title compound (Compound 25) is obtained as an oil by chromatography over silica gel (with toluene/ethylacetate 3/1).

reactant | N-methyl-N-(1-naphthylmethyl)-3-butyn-amine | 2 g | CN(CCC#C)CC1=CC=CC2=CC=CC=C12 | C16H17N
reactant | tetrahydrofurane | O1CCCC1 | C4H8O
reactant | n-butyllithium | C(CCC)[Li]
reactant | diethylketone | 0.95 ml | C(C)C(=O)CC | C5H10O
solvent | hexane | CCCCCC | C6H14
product | N-Methyl-N-(1-naphthylmethyl)-5-ethyl-5-hydroxy-3-heptyn-amine | CN(CCC#CC(CC)(O)CC)CC1=CC=CC2=CC=CC=C12 | C21H27NO
